US08124780B2
(2b) 5,7-dioxaspiro[2.5]oct-6-ylmethanol
The 6-((benzyloxy)methyl)-5,7-dioxaspiro[2.5]octane (6.1 g, 26 mmol) obtained by the step (2a) was mixed with 20% palladium hydroxide (800 mg) and ethyl acetate (70 ml) and the mixture was stirred in a hydrogen atmosphere for 24 hours. The reaction vessel was purged with nitrogen and the catalyst was filtered off and then the solvent was distilled off to obtain the title compound (3.7 g, yield: 98.7%) as a colorless oil.

reactant | 6-((benzyloxy)methyl)-5,7-dioxaspiro[2.5]octane | 26 mmol, 6.1 g | C(C1=CC=CC=C1)OCC1OCC2(CC2)CO1 | C14H18O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 800 mg | [OH-].[Pd+2].[OH-]
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | 5,7-dioxaspiro[2.5]oct-6-ylmethanol | 3.7 g, yield: 98.7% | C1CC12COC(OC2)CO | C7H12O3
